US07183306B2
A mixture of 3-cyano-1-(4-methoxyphenyl)-5-[4-(aminometyl)phenyl]-1H-pyrazole (90 mg) trimethylsilylisocyanate (152 mg) and Et3N (0.18 ml) in CH2Cl2 (5 ml) was stirred at room temperature. After stirring for 5 hours (checked by TLC), water and CHCl3 was added. The organic layer was separated. Aqueous layer was extracted with EtOAc. The combined organic layer was washed with water and brine. Dried over MgSO4, filtered and evaporated under reduced pressure to give 48 mg (52%) of N-{4-[3-cyano-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]benzyl}urea.

reactant | 3-cyano-1-(4-methoxyphenyl)-5-[4-(aminometyl)phenyl]-1H-pyrazole | 90 mg | C(#N)C1=NN(C(=C1)C1=CC=C(C=C1)CN)C1=CC=C(C=C1)OC | C18H16N4O
reactant | Et3N | 0.18 ml | CCN(CC)CC | C6H15N
reactant | water | O | H2O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-{4-[3-cyano-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]benzyl}urea | 48 mg, 52% | C(#N)C1=NN(C(=C1)C1=CC=C(CNC(=O)N)C=C1)C1=CC=C(C=C1)OC | C19H17N5O2
